US04069250
Methyl N-methyl-5-nitro-N-[tris(hydroxymethyl)methyl]isophthalamate is stirred with one equivalent of sodium hydroxide in aqueous methanol. The reaction mixture is concentrated to remove the methanol, diluted with water and acidified with mineral acid to provide crystalline N-methyl-5-nitro-N-[tris (hydroxymethyl)methyl]isophthalamic acid.

reactant | Methyl N-methyl-5-nitro-N-[tris(hydroxymethyl)methyl]isophthalamate | CN(C(C=1C=C(C(=O)OC)C=C(C1)[N+](=O)[O-])=O)C(CO)(CO)CO | C14H18N2O8
reactant | sodium hydroxide | one equivalent | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | N-methyl-5-nitro-N-[tris (hydroxymethyl)methyl]isophthalamic acid | CN(C(C=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-])=O)C(CO)(CO)CO | C13H16N2O8
